US07754737B2
The N—((S)-2-(2-(3-((2-cyclopropylethoxy)(phenyl)methyl)piperidin-1-yl)-3,4-dioxocyclobut-1-enylamino)-3-cyclohexylpropyl)-4-(trimethylsilyl)butanamide (12.3 mg, 0.02 mmol) was dissolved in dioxane (1 mL) and treated with 4M HCl in dioxane (0.5 mL, 2.0 mmol). The solution was allowed to stir for 1.5 h before evaporation of solvent. The residual oil was redissolved in methanol and evaporated under reduced pressure to afford 3-((S)-1-amino-3-cyclohexylpropan-2-ylamino)-4-(3-((2-cyclopropylethoxy)(phenyl)methyl)piperidin-1-yl)cyclobut-3-ene-1,2-dione hydrochloride as an oil (10 mg, >99%). MS ESI+ve m/z 494 (M+1).

reactant | N—((S)-2-(2-(3-((2-cyclopropylethoxy)(phenyl)methyl)piperidin-1-yl)-3,4-dioxocyclobut-1-enylamino)-3-cyclohexylpropyl)-4-(trimethylsilyl)butanamide | 0.02 mmol, 12.3 mg | C1(CC1)CCOC(C1CN(CCC1)C1=C(C(C1=O)=O)N[C@H](CNC(CCC[Si](C)(C)C)=O)CC1CCCCC1)C1=CC=CC=C1 | C37H57N3O4Si
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
solvent | dioxane | 2.0 mmol, 0.5 mL | O1CCOCC1 | C4H8O2
product | 3-((S)-1-amino-3-cyclohexylpropan-2-ylamino)-4-(3-((2-cyclopropylethoxy)(phenyl)methyl)piperidin-1-yl)cyclobut-3-ene-1,2-dione hydrochloride | 10 mg, >99% | Cl.NC[C@H](CC1CCCCC1)NC=1C(C(C1N1CC(CCC1)C(C1=CC=CC=C1)OCCC1CC1)=O)=O | InChI=1S/C30H43N3O3.ClH/c31-19-25(18-22-8-3-1-4-9-22)32-26-27(29(35)28(26)34)33-16-7-12-24(20-33)30(23-10-5-2-6-11-23)36-17-15-21-13-14-21;/h2,5-6,10-11,21-22,24-25,30,32H,1,3-4,7-9,12-20,31H2;1H/t24?,25-,30?;/m0./s1
